US07414134B2
Step (iv): Synthesis of (R)-3-(1-((R)-6-(hydroxymethyl)-1,2,3,4-tetrahydro-naphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide (73)
To a stirred solution of (R)-5-(4-((R)-3-amino-2-(4-methylbenzenesulfonamido)-3-oxopropyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid (1.63 g, 3.28 mmol) in 40 mL toluene was added a solution of 1.5M DIBAL-H in toluene. The reaction mixture was stirred for 3 h and then cooled to 0° C. The reaction mixture was quenched by the slow addition of 10% HCl and extracted with EtOAc (3×). The extracts were dried over MgSO4, concentrated and purified by Sio2 (5% MeOH/CH2Cl2) to afford a light yellow solid. MS (m/z): 470.4 (m+H).

reactant | (R)-5-(4-((R)-3-amino-2-(4-methylbenzenesulfonamido)-3-oxopropyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid | 3.28 mmol, 1.63 g | NC([C@@H](CC=1N=NN(C1)[C@H]1C=2C=CC(=CC2CCC1)C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C23H25N5O5S
reactant | DIBAL-H | 1.5M | CC(C)C[AlH]CC(C)C
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-3-(1-((R)-6-(hydroxymethyl)-1,2,3,4-tetrahydro-naphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide | OCC=1C=C2CCC[C@H](C2=CC1)N1N=NC(=C1)C[C@H](C(=O)N)NS(=O)(=O)C1=CC=C(C=C1)C | C23H27N5O4S
